US07960365B2
(R)-1-Methyl-3-trifluoromethyl-1H-pyrazole-4-sulfonic acid {1-[4-(2-difluoromethoxy-pyridin-3-yl)-phenyl]-ethyl}-amide
A mixture of (R)-1-(4-bromophenyl)ethylamine (3.12 g, 15.6 mmol), pthalic anhydride (2.31 g, 15.6 mmol) and dimethylformamide (20 ml) was heated in a microwave oven at 210° C. for 20 min. The reaction mixture was then partitioned between diethyl ether and water, and the organic phase washed with brine. The solvent was evaporated to give (R)-2-[1-(4-bromo-phenyl)-ethyl]-isoindole-1,3-dione (3.44 g, 10.4 mmol, 67%). A mixture of 2-methoxypyridine-3-boronic acid (4.0 g, 26 mmol), (R)-2-[1-(4-bromo-phenyl)-ethyl]-isoindole-1,3-dione (2.88 g, 8.7 mmol), tetrakis(triphenylphosphine)palladium (0) (0.5 g, 0.44 mmol), 1,2-dimethoxyethane (50 ml) and 2 M aqueous sodium carbonate (14.4 ml, 28.8 mmol) were heated in a microwave oven at 150° C. for 15 min. The reaction mixture was partitioned between ethyl acetate and water. The organic phase was washed with water, brine and the solvent evaporated. The residue was chromatographed on silica gel eluting with 6:1 heptane/ethyl acetate to give (R)-2-{1-[4-(2-methoxy-pyridin-3-yl)-phenyl]-ethyl}-isoindole-1,3-dione (1.38 g, 3.9 mmol, 45%). A mixture of (R)-2-{1-[4-(2-methoxy-pyridin-3-yl)-phenyl]-ethyl}-isoindole-1,3-dione (1.38 g, 3.9 mmol) and pyridine.hydrogen chloride (4.45 g, 3.9 mmol) was heated in a microwave oven at 210° C. for 10 min. The reaction mixture was then partitioned between ethyl acetate and water. The organic phase was dried over anhydrous magnesium sulfate and the solvent evaporated to give (R)-2-{1-[4-(2-hydroxy-pyridin-3-yl)-phenyl]-ethyl}-isoindole-1,3-dione (1.38 g, 4.0 mmol, 103%). To a solution of (R)-2-{1-[4-(2-hydroxy-pyridin-3-yl)-phenyl]-ethyl}-isoindole-1,3-dione (1.20 g, 3.5 mmol) in dimethylformamide (30 ml) was added caesium carbonate (1.93 g, 7.7 mmol) and chlorodifluoromethyl acetate (1.11 g, 7.7 mmol). The reaction mixture was heated to 120° C. for 4 h under nitrogen atmosphere. The reaction was partitioned between diethyl ether and water. The organic phase was washed with brine and the solvent evaporated. The residue was chromatographed on silica gel eluting with 3:1 heptane/ethyl acetate to give (R)-2-{1-[4-(2-difluoromethoxy-pyridin-3-yl)-phenyl]-ethyl}-isoindole-1,3-dione (136 mg, 0.34 mmol, 10%). A mixture of (R)-2-{1-[4-(2-difluoromethoxy-pyridin-3-yl)-phenyl]-ethyl}-isoindole-1,3-dione (220 mg, 0.34 mmol), hydrazine hydrate (136 mg, 0.34 mmol) and methanol (5.3 ml) was stirred at room temperature for 16 h under nitrogen atmosphere. The solvent was evaporated and dichloromethane (5 ml) added. The solid was filtered off and the solvent was evaporated from the filtrates. The residue was purified on a SCX column (eluted with 2M ammonia in methanol) to give (R)-1-[4-(2-difluoromethoxy-pyridin-3-yl)-phenyl]-ethylamine (72 mg, 0.27 mmol, 79%). To a solution of (R)-1-[4-(2-difluoromethoxy-pyridin-3-yl)-phenyl]-ethylamine (35 mg, 0.13 mmol) in dichloromethane (1 ml) was added triethylamine (41 mg, 0.40 mmol) and the 1-methyl-3-(trifluoromethyl)-1H-pyrazole-4-sulfonylchloride (39 mg, 0.16 mmol). The reaction mixture was agitated for 16 hours then the solvent evaporated and the residue chromatographed on silica gel (eluting with 1:1 heptane/ethyl acetate) to give the title compound (29 mg, 0.06 mmol, 46%). 1H NMR (400 MHz, CDCl3): δ 8.18 (dd, 1H), 7.71 (d, 1H), 7.60 (t, 1H), 7.47 (s, 1H), 7.42 (d, 2H), 7.19-7.25 (m, 3H), 5.11 (bd, 1H), 4.62 (m, 1H), 3.74 (s, 3H), 1.51 (d, 3H) ppm; MS (ESI) m/z: 477.1 [M+H]+.

reactant | (R)-1-[4-(2-difluoromethoxy-pyridin-3-yl)-phenyl]-ethylamine | 0.13 mmol, 35 mg | FC(OC1=NC=CC=C1C1=CC=C(C=C1)[C@@H](C)N)F | C14H14F2N2O
reactant | triethylamine | 0.40 mmol, 41 mg | C(C)N(CC)CC | C6H15N
reactant | 1-methyl-3-(trifluoromethyl)-1H-pyrazole-4-sulfonylchloride | 0.16 mmol, 39 mg | CN1N=C(C(=C1)S(=O)(=O)Cl)C(F)(F)F | C5H4ClF3N2O2S
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | (R)-1-Methyl-3-trifluoromethyl-1H-pyrazole-4-sulfonic acid {1-[4-(2-difluoromethoxy-pyridin-3-yl)-phenyl]-ethyl}-amide | 0.06 mmol, 29 mg, 46% | FC(OC1=NC=CC=C1C1=CC=C(C=C1)[C@@H](C)NS(=O)(=O)C=1C(=NN(C1)C)C(F)(F)F)F | C19H17F5N4O3S
